US07888376B2
To a 50 mL flask flushed with nitrogen, equipped with a stir bar and cooled in a water bath was added potassium tertbutoxide (1.2 g, 11 mmol, 95%). DMSO was added (4 mL) followed by addition of a solution of 2,2,2-trifluoroethanol (1.1 g, 11 mmol) in DMSO (1 mL). The water bath was removed and 1-bromo-3,5-difluorobenzene (1.1 mL, 9.5 mmol) was added and the reaction mixture stirred at room temperature for 1 h. An additional portion of 2,2,2-trifluoroethanol was added (1.1 g, 11 mmol) and the reaction mixture stirred for 14 h. Additional potassium tertbutoxide (0.24 g, 2.2 mmol, 95%) was added followed by addition of a further aliquot of 2,2,2-trifluoroethanol (0.44 g, 4.4 mmol) and the resulting turbid solution stirred for 2 h. Water was added (200 mL), and the aqueous phase extracted with ether (1×200 mL). The organic portion was then washed successively with water (2×200 mL) and saturated NaCl solution (2×200 mL), dried over Na2SO4, decanted and concentrated under reduced pressure yielding a crude yellow liquid (2.1 g). A portion of the crude product (1.3 g) was purified by distillation under reduced pressure at 80° C. yielding 1-bromo-3-fluoro-5-(2,2,2-trifluoroethoxy)benzene as a colorless oil (0.70 g, 35% yield). 1H NMR (CDCl3, 400 MHz): 7.05 ppm (d, 1H), 6.90 ppm (s, 1H), 6.55 ppm (d, 1H), 4.32 ppm (q, 2H).

reactant | potassium tertbutoxide | 11 mmol, 1.2 g | CC(C)([O-])C.[K+]
reactant | 2,2,2-trifluoroethanol | 11 mmol, 1.1 g | FC(CO)(F)F | C2H3F3O
reactant | 1-bromo-3,5-difluorobenzene | 9.5 mmol, 1.1 mL | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | potassium tertbutoxide | 2.2 mmol, 0.24 g | CC(C)([O-])C.[K+]
reactant | 2,2,2-trifluoroethanol | 4.4 mmol, 0.44 g | FC(CO)(F)F | C2H3F3O
reactant | Water | O | H2O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 1-bromo-3-fluoro-5-(2,2,2-trifluoroethoxy)benzene | 0.70 g, 35% yield | BrC1=CC(=CC(=C1)OCC(F)(F)F)F | C8H5BrF4O
